US04515948
A suspension of 16.5 g. of 4'-amino-3',5'-dimethyl-2-(methylsulfonyl)-acetophenone and 10.6 g. of sodium borohydride in 500 ml. of alcohol was stirred at room temperature for 20 hours, resulting in a solution. After the addition of 500 ml. of water, the alcohol was evaporated under vacuum and the mixture was extracted with two 1 liter portions of ethyl acetate. The ethyl acetate extract was washed with two 500 ml. portions of water, dried over magnesium sulfate and evaporated under vacuum. After crystallization of the residue from ether, there was obtained 4-amino-3,5-dimethyl-α-[(methylsulfonyl)-methyl]-benzyl alcohol having a melting point of 146°-148° C.

reactant | 4'-amino-3',5'-dimethyl-2-(methylsulfonyl)-acetophenone | NC1=C(C=C(C=C1C)C(CS(=O)(=O)C)=O)C | C11H15NO3S
reactant | sodium borohydride | [BH4-].[Na+]
product | 4-amino-3,5-dimethyl-α-[(methylsulfonyl)-methyl]-benzyl alcohol | NC1=C(C=C(C(CS(=O)(=O)C)O)C=C1C)C | C11H17NO3S
